* C:\Users\xxjac\Documents\LTspiceXVII\switching_scheme.asc
R1 VG2 N001 6.2k
R2 VBATT VG1 10k
R3 N003 N005 2.2k
R4 N005 0 1k
V2 N002 0 PULSE(32 0 1 0 0 10 10 1)
XM2 VOUT VG2 VBATT SQP100P06-9m3L
D1 VPS VOUT RB075BM40S
XM1 VG2 VG1 VBATT BSS84
V1 VBATT 0 50 Rser=1m
XM3 N004 N005 0 2N7002NXAK
XD2 VG2 VBATT DI_BZT52C9V1LP
XD3 VG1 VBATT DI_BZT52C9V1LP
XD4 0 N005 DI_BZT52C9V1LP
R5 VG1 N004 100K
R7 VPS N002 1m
C1 VOUT 0 47µ
R8 VPS N003 2.2k
R9 N001 0 6.2k
I1 VOUT 0 15
.model D D
.lib C:\Users\xxjac\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 1.001 .99999 1us
********************************
* Copyright:                   *
* Vishay Intertechnology, Inc. *
********************************
*Dec 22, 2014
*ECN S14-2485, Rev. A
*File Name: SQP100P06-9m3L_PS.txt and SQP100P06-9m3L_PS.lib
*This document is intended as a SPICE modeling guideline and does not
*constitute a commercial product datasheet. Designers should refer to the
*appropriate datasheet of the same number for guaranteed specification
*limits.
.SUBCKT SQP100P06-9m3L D G S
M1 3 GX S S PMOS W= 16412611u L= 0.3u
M2 S GX S D NMOS W= 16412611u L= 0.62u
R1 D 3 6.391e-03 TC=5.713e-03, 7.604e-06
CGS GX S 5.354e-09
CGD GX D 6.959e-11
RG G GY 2.2
RTCV 100 S 1e6 TC=6.667e-04, -7.770e-07
ETCV GY GX 100 200 1
ITCV S 100 1u
VTCV 200 S 1
DBD D S DBD 16412611u
****************************************************************
.MODEL PMOS PMOS ( LEVEL = 3 TOX = 5e-8
+ RS = 0 KP = 2.929e-06 NSUB = 6.42e+16
+ KAPPA = 9.220e-04 NFS = 1.000e+12
+ LD = 0 IS = 0 TPG = -1 )
***************************************************************
.MODEL NMOS NMOS ( LEVEL = 3 TOX = 5e-8
+NSUB = 1.343e+16 IS = 0 TPG = -1 )
****************************************************************
.MODEL DBD D (
+FC = 0.1 TT = 1.001e-08 T_MEASURED = 25 BV = 61
+RS = 3.617e-02 N = 1.020e+00 IS = 3.880e-13
+EG = 1.212e+00 XTI = -2.270e-01 TRS1 = 3.439e-03
+CJO = 8.088e-11 VJ = 1.291e+00 M = 5.104e-01 )
.ENDS
.MODEL STPSC20065-Y
*****************************************************************
* Nexperia 2N7002NXAK
*
* Polarity N-Channel
* Ratings 60V/3.000000E+000OHMS/0.19A
*
* Created on 2019-07-01 14:26:04
*
****************************************************************
* Please visit www.nexperia.com for latest revision release
*
****************************************************************
* Model generated by Nexperia
* Copyright(c) 2018
* All rights reserved
*
* Contains proprietary information which is the property of Nexperia.
*
****************************************************************
.SUBCKT 2N7002NXAK DRAIN GATE SOURCE
LD DRAIN 5 4e-10
RLD2 DRAIN 5 1.00530964914873
RLD1 5 4 0.0023
LG GATE 1 8.81711084834576e-10
RLG GATE 1 2.21598165336399
LS SOURCE 8 1.28299790790991e-09
RLS2 SOURCE 8 3.22452544164868
RLS1 8 7 0.0548513610286835
RDS 7 4 32432432432.4324 TC=-0.005
RS 6 7 0.0001
RD 3 4 2.4096661760153 TC=0.00697041491750412,1.27495650403094E-05
RBD 9 4 0.475573258027411 TC=0.00697041491750412,1.27495650403094E-05
DBD 7 9 DBD
M1 3 2 6 6 MINT
RGS 2 6 35499387.6355633
CGS 2 6 9.34e-12
RG 1 2 21.3470486389713
* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20           4.4
+ -12           4.7
+ -10           4.75
+ -8            4.74
+ -5            5.34
+ -4            5.76
+ -3            6.51
+ -2            8.03
+ -1            7.24
+ -0.5          6.01
+ -0.2          5.25
+ -0.1          5.06
+ 0             4.88
+ 0.1           4.68
+ 0.2           4.45
+ 0.5           3.67
+ 1             2.83
+ 2             2.3
+ 3             2.04
+ 4             1.88
+ 5             1.78
+ 6             1.68
+ 8             1.56
+ 10            1.47
+ 12            1.39
+ 15            1.3
+ 20            1.2
+ 30            1.07
+ 40            0.981
+ 60            0.874
.MODEL MINT NMOS(Vto=1.69024695423674 Kp=2.392063e-001 Nfs=750000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)
.MODEL DBD D(Bv=76.7 Ibv=2.500000E-004 Rs=1E-6 Is=3.41078850609469e-14
+ N=1 M=0.31 VJ=0.5 Fc=0.5 Cjo=6.61e-12 Tt=1.85e-08)
.ENDS
*ZETEX BSS84 Spice Model v1.1 Last Revised 3/5/00
*
.SUBCKT BSS84 3 4 5
* NODES: DRAIN GATE SOURCE
M1 3 2 5 5 MOD1
RG 4 2 167
RL 3 5 50E6
C1 2 5 26P
C2 3 2 4P
D1 3 5 DIODE1
*
.MODEL MOD1 PMOS VTO=-1.709 RS=3.091 RD=0.979 IS=1E-15 KP=0.146
+CBD=12P PB=1
.MODEL DIODE1 D IS=1.072E-13 RS=0.527 N=1.077
.ENDS BSS84
*
*$
*
*SRC=BZT52C9V1LP;DI_BZT52C9V1LP;Diodes;Zener <=10V; 9.10V  0.250W   Diodes Inc. QFN Zener
*SYM=HZEN
.SUBCKT DI_BZT52C9V1LP  1 2
*        Terminals    A   K
D1 1 2 DF
DZ 3 1 DR
VZ 2 3 7.44
.MODEL DF D ( IS=11.3p RS=31.3 N=1.10
+ CJO=50.3p VJ=0.750 M=0.330 TT=50.1n )
.MODEL DR D ( IS=2.26f RS=3.45 N=2.23 )
.ENDS
.backanno
.end
