* RQ5H030TN NMOSFET model
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or
* Resale Restricted
* Date: 2019/11/27
******************D G S
.SUBCKT RQ5H030TN 1 2 3
M1   11 22 3 3 MOS_N
D1         3 1 DDS
R1        1 11 RTH 28.8m
D2       22 11 DDG
R2        2 22 13
.MODEL MOS_N NMOS
+ LEVEL=3
+ L=2.0000E-6
+ W=1
+ KP=67.950E-6
+ RS=10.000E-3
+ RD=0
+ VTO=1.4230
+ RDS=45.000E6
+ TOX=2.0000E-6
+ CGSO=420p
+ CGDO=15p
+ CBD=0
+ RG=0
+ N=2
+ RB=1.0000E-3
+ GAMMA=0.6
+ ETA=0.0015
+ KAPPA=0
+ NFS=10G
.MODEL DDS D
+ IS=27.559E-12
+ N=1.1470
+ RS=4.7040E-3
+ IKF=0.5555
+ CJO=150.73E-12
+ M=0.3311
+ VJ=0.5132
+ BV=45
+ TT=30n
.MODEL DDG D
+ CJO=180.00E-12
+ M=0.5206
+ VJ=0.5651
+ N=10000
+ FC=0.03
+ T_ABS=25
.MODEL RTH RES
+ TC1=0.0081
+ TC2=0.0100E-3
.ENDS
