********************************
* Copyright:                   *
* Vishay Intertechnology, Inc. *
********************************
*Dec 22, 2014
*ECN S14-2485, Rev. A
*File Name: SQP100P06-9m3L_PS_RC.txt and SQP100P06-9m3L_PS_RC.lib
*This document is intended as a SPICE modeling guideline and does not
*constitute a commercial product datasheet. Designers should refer to the
*appropriate datasheet of the same number for guaranteed specification
*limits.
.SUBCKT SQP100P06-9m3L D G S 
M1 3 GX S S PMOS W= 16412611u L= 0.3u 
M2 S GX S D NMOS W= 16412611u L= 0.62u 
R1 D 3 6.391e-03 TC=5.713e-03, 7.604e-06 
CGS GX S 5.354e-09 
CGD GX D 6.959e-11 
RG G GY 2.2
RTCV 100 S 1e6 TC=6.667e-04, -7.770e-07 
ETCV GY GX 100 200 1 
ITCV S 100 1u 
VTCV 200 S 1 
DBD D S DBD 16412611u 
**************************************************************** 
.MODEL PMOS PMOS ( LEVEL = 3 TOX = 5e-8 
+ RS = 0 KP = 2.929e-06 NSUB = 6.42e+16 
+ KAPPA = 9.220e-04 NFS = 1.000e+12 
+ LD = 0 IS = 0 TPG = -1 ) 
*************************************************************** 
.MODEL NMOS NMOS ( LEVEL = 3 TOX = 5e-8 
+NSUB = 1.343e+16 IS = 0 TPG = -1 ) 
**************************************************************** 
.MODEL DBD D ( 
+FC = 0.1 TT = 1.001e-08 T_MEASURED = 25 BV = 61 
+RS = 3.617e-02 N = 1.020e+00 IS = 3.880e-13 
+EG = 1.212e+00 XTI = -2.270e-01 TRS1 = 3.439e-03 
+CJO = 8.088e-11 VJ = 1.291e+00 M = 5.104e-01 ) 
.ENDS 

* source GENERARTE-COMP PCH
.SUBCKT SQP100P06-9m3L_PS_RC D G S PARAMS: C2=1000 C3=1000 R1=1M C4=1000 R2=1M
+  C5=1000 R3=1M R4=1M R5=1M C1=1000
X_U1         DRAIN GATE SOURCE SQP100P06-9M3L 
C_CT6         N11708 N11712  5.8835m  TC=0,0 
C_CF2         0 N16364  246.5979m  TC=0,0 
R_RT1         J-A-TEMP-TANK N11404  16.6684 TC=0,0 
C_CF7         0 N18737  29.7288m  TC=0,0 
R_RT7         N11712 N11716  139.5890m TC=0,0 
C_CF4         0 N16388  1.8936  TC=0,0 
G_G7         0 JUNCTION-TEMPERATURE-1RC VALUE {
+  (V(Source)-V(Drain))*I(V_V_Source)+(V(Source)-V(Gate))*(-I(V_V_Gate)) }
C_C10         N94536 N94151  {C4}  TC=0,0 
C_C12         N95722 N95798  {C2}  TC=0,0 
C_C5         N92368 N92773  {C2}  TC=0,0 
V_V_Gate         G GATE 0VDC
R_RT3         N11408 N11412  35.9530 TC=0,0 
C_C8         N94061 N94123  {C2}  TC=0,0 
R_RF3         N16384 N16388  2.0159 TC=0,0 
V_V4         N11732 0 {TEMP}
R_R10         N94536 N94151  {R4} TC=0,0 
R_R5         N92368 N92773  {R2} TC=0,0 
C_C3         N91434 N91125  {C2}  TC=0,0 
R_R12         N95722 N95798  {R2} TC=0,0 
R_R8         N94061 N94123  {R2} TC=0,0 
R_RT8         N11716 N11732  365.9919m TC=0,0 
R_RT6         N11708 N11712  241.8309m TC=0,0 
R_R3         N91434 N91125  {R2} TC=0,0 
G_DissipationPower         0 J-A-TEMP-FILTER VALUE {
+  (V(Source)-V(Drain))*I(V_V_Source)+(V(Source)-V(Gate))*(-I(V_V_Gate)) }
C_CT2         N11404 N11408  13.8795m  TC=0,0 
R_RT5         J-C-TEMP-TANK N11708  47.4846m TC=0,0 
C_C1         JUNCTION-TEMPERATURE-1RC N89014  {C1}  TC=0,0 
C_C13         N95798 N95860  {C3}  TC=0,0 
R_RF2         N16364 N16384  2.0301 TC=0,0 
V_V3         N11450 0 {TEMP}
C_C9         N94123 N94536  {C3}  TC=0,0 
R_R13         N95798 N95860  {R3} TC=0,0 
R_RF8         N18741 N18767  110.8632m TC=0,0 
C_CT1         J-A-TEMP-TANK N11404  620.3890  TC=0,0 
R_RF1         J-A-TEMP-FILTER N16364  713.5911m TC=0,0 
R_RT2         N11404 N11408  206.3476m TC=0,0 
R_R9         N94123 N94536  {R3} TC=0,0 
C_CT4         N11412 N11450  414.0579m  TC=0,0 
R_RF5         J-C-TEMP-FILTER N18733  31.0044m TC=0,0 
V_V5         N16436 0 {TEMP}
C_CT3         N11408 N11412  2.4034  TC=0,0 
G_G5         0 J-A-TEMP-TANK VALUE {
+  (V(Source)-V(Drain))*I(V_V_Source)+(V(Source)-V(Gate))*(-I(V_V_Gate)) }
C_C4         JUNCTION-TEMPERATURE-3RC N92368  {C1}  TC=0,0 
R_RF7         N18737 N18741  363.4230m TC=0,0 
C_C14         N95860 N96370  {C4}  TC=0,0 
C_C11         JUNCTION-TEMPERATURE-5RC N95722  {C1}  TC=0,0 
R_RT4         N11412 N11450  2.6348 TC=0,0 
C_CF8         0 N18741  3.0455  TC=0,0 
C_C7         JUNCTION-TEMPERATURE-4RC N94061  {C1}  TC=0,0 
R_R1         JUNCTION-TEMPERATURE-1RC N89014  {R1} TC=0,0 
C_C2         JUNCTION-TEMPERATURE-2RC N91434  {C1}  TC=0,0 
R_R4         JUNCTION-TEMPERATURE-3RC N92368  {R1} TC=0,0 
R_R14         N95860 N96370  {R4} TC=0,0 
R_R11         JUNCTION-TEMPERATURE-5RC N95722  {R1} TC=0,0 
C_CF5         0 J-C-TEMP-FILTER  669.2423u  TC=0,0 
C_CF1         0 J-A-TEMP-FILTER  101.8323m  TC=0,0 
R_R7         JUNCTION-TEMPERATURE-4RC N94061  {R1} TC=0,0 
R_R2         JUNCTION-TEMPERATURE-2RC N91434  {R1} TC=0,0 
C_CT5         J-C-TEMP-TANK N11708  5.4627m  TC=0,0 
C_C15         N96370 N95888  {C5}  TC=0,0 
V_V9         N92392 0 {TEMP}
V_V_Source         S SOURCE 0VDC
V_V11         N95888 0 {TEMP}
R_RF4         N16388 N16436  35.0598 TC=0,0 
C_CT8         N11716 N11732  34.1516m  TC=0,0 
V_V10         N94151 0 {TEMP}
R_R15         N96370 N95888  {R5} TC=0,0 
G_G4         0 J-C-TEMP-FILTER VALUE {
+  (V(Source)-V(Drain))*I(V_V_Source)+(V(Source)-V(Gate))*(-I(V_V_Gate)) }
V_V8         N91125 0 {TEMP}
C_C6         N92773 N92392  {C3}  TC=0,0 
C_CT7         N11712 N11716  1.5861  TC=0,0 
G_G9         0 JUNCTION-TEMPERATURE-3RC VALUE {
+  (V(Source)-V(Drain))*I(V_V_Source)+(V(Source)-V(Gate))*(-I(V_V_Gate)) }
C_CF6         0 N18733  3.2703m  TC=0,0 
R_R6         N92773 N92392  {R3} TC=0,0 
G_G11         0 JUNCTION-TEMPERATURE-5RC VALUE {
+  (V(Source)-V(Drain))*I(V_V_Source)+(V(Source)-V(Gate))*(-I(V_V_Gate)) }
V_V7         N89014 0 {TEMP}
C_CF3         0 N16384  356.9224m  TC=0,0 
G_G10         0 JUNCTION-TEMPERATURE-4RC VALUE {
+  (V(Source)-V(Drain))*I(V_V_Source)+(V(Source)-V(Gate))*(-I(V_V_Gate)) }
G_G8         0 JUNCTION-TEMPERATURE-2RC VALUE {
+  (V(Source)-V(Drain))*I(V_V_Source)+(V(Source)-V(Gate))*(-I(V_V_Gate)) }
R_RF6         N18733 N18737  294.4443m TC=0,0 
V_V_Drain         DRAIN D 0VDC
G_G6         0 J-C-TEMP-TANK VALUE {
+  (V(Source)-V(Drain))*I(V_V_Source)+(V(Source)-V(Gate))*(-I(V_V_Gate)) }
V_V6         N18767 0 {TEMP}
.ENDS
