********************************
* Copyright:                   *
* Vishay Intertechnology, Inc. *
********************************
*Sep 01, 2014
*ECN S14-1746, Rev. C
*File Name: SUP90P06-09L_PS_RC.txt and SUP90P06-09L_PS_RC.lib
*This document is intended as a SPICE modeling guideline and does not
*constitute a commercial product datasheet.  Designers should refer to the
*appropriate datasheet of the same number for guaranteed specification
*limits.
.SUBCKT SUP90P06-09L 4 1 2
M1  3 1 2 2 PMOS W=16804728u L=0.25u         
M2  2 1 2 4 NMOS W=16804728u L=0.45u 
R1  4 3     RTEMP 3.4E-3
CGS 1 2     5800E-12
DBD 4 2     DBD
***************************************************************  
.MODEL  PMOS       PMOS  ( LEVEL  = 3           TOX    = 5E-8
+ RS     = 3.5E-3          RD     = 0           NSUB   = 1.5E17
+ KP     = 4E-6            UO     = 400             
+ VMAX   = 0               XJ     = 5E-7        KAPPA  = 5E-2
+ ETA    = 1E-4            TPG    = -1  
+ IS     = 0               LD     = 0                        
+ CGSO   = 0               CGDO   = 0           CGBO   = 0 
+ NFS    = 0.8E12          DELTA  = 0.1)
*************************************************************** 
.MODEL  NMOS       NMOS  ( LEVEL  = 3           TOX    = 5E-8
+NSUB    = 3.5E16          NFS    = 1E12        TPG    = -1)   
*************************************************************** 
.MODEL DBD D (CJO=740E-12 VJ=0.38 M=0.35
+RS=0.1 FC=0.5 IS=1E-12 TT=6E-8 N=1 BV=60.2)
*************************************************************** 
.MODEL RTEMP RES (TC1=11E-3 TC2=5.5E-6)
*************************************************************** 
.ENDS

* source GENERARTE-COMP PCH-J-CONLY
.SUBCKT SUP90P06-09L_PS_RC D G S PARAMS: C2=1000 C3=1000 R1=1M C4=1000 R2=1M
+  C5=1000 R3=1M R4=1M R5=1M C1=1000
C_CT6         N11708 N11712  605.8858m  TC=0,0 
C_CF7         0 N18737  6.8667m  TC=0,0 
R_RT7         N11712 N11716  195.5209m TC=0,0 
G_G7         0 JUNCTION-TEMPERATURE-1RC VALUE {
+  (V(Source)-V(Drain))*I(V_V_Source)+(V(Source)-V(Gate))*(-I(V_V_Gate)) }
C_C10         N94536 N94151  {C4}  TC=0,0 
C_C12         N95722 N95798  {C2}  TC=0,0 
C_C5         N92368 N92773  {C2}  TC=0,0 
V_V_Gate         G GATE 0VDC
C_C8         N94061 N94123  {C2}  TC=0,0 
V_V4         N11732 0 {TEMP}
R_R10         N94536 N94151  {R4} TC=0,0 
R_R5         N92368 N92773  {R2} TC=0,0 
C_C3         N91434 N91125  {C2}  TC=0,0 
R_R12         N95722 N95798  {R2} TC=0,0 
R_R8         N94061 N94123  {R2} TC=0,0 
R_RT8         N11716 N11732  240.8384m TC=0,0 
R_RT6         N11708 N11712  48.7279m TC=0,0 
R_R3         N91434 N91125  {R2} TC=0,0 
R_RT5         j-c-Temp-Tank N11708  114.9128m TC=0,0 
C_C1         JUNCTION-TEMPERATURE-1RC N89014  {C1}  TC=0,0 
C_C13         N95798 N95860  {C3}  TC=0,0 
C_C9         N94123 N94536  {C3}  TC=0,0 
X_U1         DRAIN GATE SOURCE SUP90P06-09L 
R_R13         N95798 N95860  {R3} TC=0,0 
R_RF8         N18741 N18767  60.8289m TC=0,0 
R_R9         N94123 N94536  {R3} TC=0,0 
R_RF5         j-c-Temp-Filter N18733  103.0961m TC=0,0 
C_C4         JUNCTION-TEMPERATURE-3RC N92368  {C1}  TC=0,0 
R_RF7         N18737 N18741  170.9695m TC=0,0 
C_C14         N95860 N96370  {C4}  TC=0,0 
C_C11         JUNCTION-TEMPERATURE-5RC N95722  {C1}  TC=0,0 
C_CF8         0 N18741  173.2541m  TC=0,0 
C_C7         JUNCTION-TEMPERATURE-4RC N94061  {C1}  TC=0,0 
R_R1         JUNCTION-TEMPERATURE-1RC N89014  {R1} TC=0,0 
C_C2         JUNCTION-TEMPERATURE-2RC N91434  {C1}  TC=0,0 
R_R4         JUNCTION-TEMPERATURE-3RC N92368  {R1} TC=0,0 
R_R14         N95860 N96370  {R4} TC=0,0 
R_R11         JUNCTION-TEMPERATURE-5RC N95722  {R1} TC=0,0 
C_CF5         0 j-c-Temp-Filter  1.0807m  TC=0,0 
R_R7         JUNCTION-TEMPERATURE-4RC N94061  {R1} TC=0,0 
R_R2         JUNCTION-TEMPERATURE-2RC N91434  {R1} TC=0,0 
C_CT5         j-c-Temp-Tank N11708  2.9651m  TC=0,0 
C_C15         N96370 N95888  {C5}  TC=0,0 
V_V9         N92392 0 {TEMP}
V_V_Source         S SOURCE 0VDC
V_V11         N95888 0 {TEMP}
C_CT8         N11716 N11732  13.1316m  TC=0,0 
V_V10         N94151 0 {TEMP}
R_R15         N96370 N95888  {R5} TC=0,0 
G_G4         0 j-c-Temp-Filter VALUE {
+  (V(Source)-V(Drain))*I(V_V_Source)+(V(Source)-V(Gate))*(-I(V_V_Gate)) }
V_V8         N91125 0 {TEMP}
C_C6         N92773 N92392  {C3}  TC=0,0 
C_CT7         N11712 N11716  6.1195m  TC=0,0 
G_G9         0 JUNCTION-TEMPERATURE-3RC VALUE {
+  (V(Source)-V(Drain))*I(V_V_Source)+(V(Source)-V(Gate))*(-I(V_V_Gate)) }
C_CF6         0 N18733  1.9512m  TC=0,0 
R_R6         N92773 N92392  {R3} TC=0,0 
G_G11         0 JUNCTION-TEMPERATURE-5RC VALUE {
+  (V(Source)-V(Drain))*I(V_V_Source)+(V(Source)-V(Gate))*(-I(V_V_Gate)) }
V_V7         N89014 0 {TEMP}
G_G10         0 JUNCTION-TEMPERATURE-4RC VALUE {
+  (V(Source)-V(Drain))*I(V_V_Source)+(V(Source)-V(Gate))*(-I(V_V_Gate)) }
G_G8         0 JUNCTION-TEMPERATURE-2RC VALUE {
+  (V(Source)-V(Drain))*I(V_V_Source)+(V(Source)-V(Gate))*(-I(V_V_Gate)) }
R_RF6         N18733 N18737  265.1055m TC=0,0 
V_V_Drain         DRAIN D 0VDC
G_G6         0 j-c-Temp-Tank VALUE {
+  (V(Source)-V(Drain))*I(V_V_Source)+(V(Source)-V(Gate))*(-I(V_V_Gate)) }
V_V6         N18767 0 {TEMP}
.ENDS
